US08748442B2
To a solution of 1-(2-fluorobenzyl)-5-(isoxazol-3-yl)-1H-pyrazole-3-carboximidamide (50 mg, 0.18 mmol) in ethanol (2 mL) was added malononitrile (35 mg, 0.53 mmol). After heating the solution to 110° C. for 6 hours, the solvent was removed in vacuo to give the crude product as a red oil. Purification by silica gel chromatography (0-10% methanol in dichloromethane) gave 2-(1-(2-fluorobenzyl)-5-(isoxazol-3-yl)-1H-pyrazol-3-yl)pyrimidine-4,6-diamine (I-103, 20 mg, 0.056 mmol, 32% yield) as a pink solid. 1H NMR (400 MHz, CDCl3) δ 8.45 (d, 1H), 7.31 (s, 1H), 7.19-7.14 (m, 1H), 7.01-6.96 (m, 1H), 6.92 (t, 1H), 6.74-6.71 (m, 1H), 6.58 (d, 1H), 5.90 (s, 2H), 5.57 (s, 1H), 5.03 (br s, 4H).

reactant | 1-(2-fluorobenzyl)-5-(isoxazol-3-yl)-1H-pyrazole-3-carboximidamide | 0.18 mmol, 50 mg | FC1=C(CN2N=C(C=C2C2=NOC=C2)C(N)=N)C=CC=C1 | C14H12FN5O
reactant | malononitrile | 0.53 mmol, 35 mg | C(CC#N)#N | C3H2N2
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-(1-(2-fluorobenzyl)-5-(isoxazol-3-yl)-1H-pyrazol-3-yl)pyrimidine-4,6-diamine | 0.056 mmol, 20 mg, 32% yield | FC1=C(CN2N=C(C=C2C2=NOC=C2)C2=NC(=CC(=N2)N)N)C=CC=C1 | C17H14FN7O
